US07910592B2
Step B: (2-chloro-5-isopropylphenyl)boronic acid
To a solution of 2-bromo-1-chloro-4-isopropylbenzene (0.37 g, 1-59 mmol) in dry THF (5 mL) at −78° C., n-butyl lithium (0.76 mL, 1.90 mmol, 2.5 M) was added. The solution was stirred at −78° C. for 30 min. Trimethyl borate (0.53 mL, 4.76 mmol) was added. The solution was stirred at −78° C. for 2.5 h. The reaction was quenched with saturated aqueous NH4Cl. The aqueous layer was extracted with EtOAc (3×15 mL). The combined EtOAc layers were dried over Na2SO4. The residue was used without further purification after evaporation of the solvent.

reactant | 2-bromo-1-chloro-4-isopropylbenzene | 1-59 mmol, 0.37 g | BrC1=C(C=CC(=C1)C(C)C)Cl | C9H10BrCl
reactant | n-butyl lithium | 1.90 mmol, 2.5 M, 0.76 mL | C(CCC)[Li]
reactant | Trimethyl borate | 4.76 mmol, 0.53 mL | B(OC)(OC)OC | C3H9BO3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (2-chloro-5-isopropylphenyl)boronic acid | ClC1=C(C=C(C=C1)C(C)C)B(O)O | C9H12BClO2
